US05922770
D-Phenylalanine-N-methyl amide (1.50 g, 8.35 mmol) and (1R)-1-formyl-2-(2-naphthyl)ethylcarbamic acid tert-butyl ester (2.50 g, 8.35 mmol) were dissolved in methanol (40 ml). Molsieves (3 Å, 30 g) and acetic acid (3 ml) were added and the mixture was cooled with ice and sodium cyanoborohydride (0.80 g, 12.5 mmol) was added. The mixture was stirred overnight at room temperature. Water (30 ml) and saturated aqueous sodium hydrogen carbonate (30 ml) were added and the mixture was extracted with methylene chloride (3×40 ml). The combined organic phases were dried (magnesium sulfate) and the solvent was removed in vacuo. The residue was chromatographed on silica (3×30 cm) using ethyl acetate/heptane (1:1) as eluent to afford 1.19 g of ((1R)-1-(((1R)-1-methylcarbamoyl-2-phenylethylamino)methyl)-2-(2-naphthyl)ethyl)carbamic acid tert butyl ester

reactant | D-Phenylalanine-N-methyl amide | 8.35 mmol, 1.50 g | CNC([C@H](N)CC1=CC=CC=C1)=O | C10H14N2O
reactant | (1R)-1-formyl-2-(2-naphthyl)ethylcarbamic acid tert-butyl ester | 8.35 mmol, 2.50 g | C(C)(C)(C)OC(N[C@H](CC1=CC2=CC=CC=C2C=C1)C=O)=O | C18H21NO3
reactant | sodium cyanoborohydride | 12.5 mmol, 0.80 g | C(#N)[BH3-].[Na+]
reactant | sodium hydrogen carbonate | 30 ml | C(O)([O-])=O.[Na+]
solvent | methanol | 40 ml | CO | CH4O
solvent | Water | 30 ml | O | H2O
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | ((1R)-1-(((1R)-1-methylcarbamoyl-2-phenylethylamino)methyl)-2-(2-naphthyl)ethyl)carbamic acid tert butyl ester | 1.19 g | C(C)(C)(C)OC(N[C@H](CC1=CC2=CC=CC=C2C=C1)CN[C@H](CC1=CC=CC=C1)C(NC)=O)=O | C28H35N3O3
